US05321135
Synthesis of 3,5-dimethoxy-4-(4-nitrobenzyloxy)-benzaldehyde
A solution of syringaldehyde (10 g, 55 mmol), p-nitrobenzyl bromide (13 g, 60 mmol) and potassium carbonate (9.0 g, 65 mmol) in 40 ml of acetone was heated under reflux for 4 hours. The solvent was distilled off under reduced pressure. The residue was added with water and then with dichloromethane. The organic layer was thereafter dried over anhydrous magnesium sulfate. The residue obtained by distilling off the solvent was added with ether, followed by stirring at room temperature. The insoluble colorless solid was collected by filtration to give 16.7 g of the title compound (yield: 93%).

reactant | syringaldehyde | 55 mmol, 10 g | C(C1=CC(OC)=C(O)C(OC)=C1)=O | C9H10O4
reactant | p-nitrobenzyl bromide | 60 mmol, 13 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | potassium carbonate | 65 mmol, 9.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 3,5-dimethoxy-4-(4-nitrobenzyloxy)-benzaldehyde | 16.7 g, yield: 93% | COC=1C=C(C=O)C=C(C1OCC1=CC=C(C=C1)[N+](=O)[O-])OC | C16H15NO6
